US08076345B2
D) 3-azido-3-(6-(trifluoromethyl)pyridin-3-yl)propan-1-ol
To a stirred solution of the crude 3-azido-3-(6-(trifluoromethyl)pyridin-3-yl)propanal (5.0 g, 20.5 mmol) in tetrahydrofuran (100 mL) at 0° C. was added sodium tetrahydroborate (1.52 g, 40.1 mmol). The mixture was stirred at room temperature for 10 minutes. After completion of the reaction, brine was added and the mixture was extracted with ether. The organic layer was dried and concentrated to afford a crude oil which was purified by silica gel chromatography to afford a light yellow oil.

reactant | 3-azido-3-(6-(trifluoromethyl)pyridin-3-yl)propanal | 20.5 mmol, 5.0 g | N(=[N+]=[N-])C(CC=O)C=1C=NC(=CC1)C(F)(F)F | C9H7F3N4O
reactant | sodium tetrahydroborate | 40.1 mmol, 1.52 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 3-azido-3-(6-(trifluoromethyl)pyridin-3-yl)propan-1-ol | N(=[N+]=[N-])C(CCO)C=1C=NC(=CC1)C(F)(F)F | C9H9F3N4O
